US06569829B1
To the resulting liquid, triethanolamine was added so as to convert 50% of the carboxyl group of N-lauroyl-L-glutamic acid to its salt, and further pure water was added thereto so as to make a solid content 30% by weight. The liquid was mixed under stirring to obtain an aqueous solution of triethanolamine N-lauroyl-L-glutamate. A yield (as acid) of N-lauroyl-L-glutamic acid, a tertiary butanol concentration and a free fatty acid content were found to be 90.5%, 60 ppm by weight and 8.3% by weight, respectively.

reactant | triethanolamine | N(CCO)(CCO)CCO | C6H15NO3
reactant | N-lauroyl-L-glutamic acid | C(CCCCCCCCCCC)(=O)N[C@@H](CCC(=O)O)C(=O)O | C17H31NO5
solvent | water | O | H2O
product | triethanolamine N-lauroyl-L-glutamate | C(CCCCCCCCCCC)(=O)N[C@@H](CCC(=O)O)C(=O)O.N(CCO)(CCO)CCO | InChI=1S/C17H31NO5.C6H15NO3/c1-2-3-4-5-6-7-8-9-10-11-15(19)18-14(17(22)23)12-13-16(20)21;8-4-1-7(2-5-9)3-6-10/h14H,2-13H2,1H3,(H,18,19)(H,20,21)(H,22,23);8-10H,1-6H2/t14-;/m0./s1
